US07173022B2
N-(4-Fluoro-2-(methylcarbamoyl)benzyl)-3-(benzyloxy)-8,8-dimethyl-4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidine-2-carboxamide.
Intermediate 6, 3-(benzyloxy)-8,8-dimethyl-4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidine-2-carboxylic acid, (79 mg, 0.25 mmol) was placed together with O-(7-azobenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate, HATU, (114 mg, 0.3 mmol) in 2 mL DMF under N2 and stirred for 20 min. 4-(Dimethylamino)pyridine, DMAP, (100 mg, 0.8 mmol) and intermediate 3, 2-aminomethyl-5-fluoro-N-methylbenzamide trifluoroacetic acid salt (89 mg, 0.3 mmol) in 1 mL DMF were added and stirring continued for 20 min. The reaction mixture was concentrated, the residue dissolved in CH2Cl2 and washed with H2O. The CH2Cl2 layer was separated, dried (MgSO4), filtered and concentrated to give 118 mg of a the title compound as a solid (Yield=95%). 1H NMR (300 MHz, CDCl3) δ ppm: 8.31–8.46 (1 H, m) 7.24–7.46 (5 H, m) 6.95–7.15 (3 H, m) 6.88 (1 H, s) 5.23 (2 H, s) 4.48 (2 H, d, J=6.6 Hz) 3.95–4.10 (2 H, m) 2.93 (3 H, t, J=5.1 Hz) 2.00–2.16 (2 H, m) 1.34 (6 H, s); LC/MS m/z 479 (M+H).

reactant | 3-(benzyloxy)-8,8-dimethyl-4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidine-2-carboxylic acid | 0.25 mmol, 79 mg | C(C1=CC=CC=C1)OC1=C(N=C2N(C1=O)CCC2(C)C)C(=O)O | C17H18N2O4
reactant | HATU | 0.3 mmol, 114 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-aminomethyl-5-fluoro-N-methylbenzamide trifluoroacetic acid salt | 0.3 mmol, 89 mg | FC(C(=O)O)(F)F.NCC1=C(C(=O)NC)C=C(C=C1)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | 4-(Dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | DMAP | 0.8 mmol, 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(4-Fluoro-2-(methylcarbamoyl)benzyl)-3-(benzyloxy)-8,8-dimethyl-4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidine-2-carboxamide | Yield=95% | FC1=CC(=C(CNC(=O)C=2N=C3N(C(C2OCC2=CC=CC=C2)=O)CCC3(C)C)C=C1)C(NC)=O | C26H27FN4O4
